US06222048B1
3,3-Dimethyl-1-phenylhex-5-en-2-ol
To a solution of 2,2-dimethylpent-4-enal (11.2 g) in 200 mL of Et2O cooled to 0° C. was added dropwise a solution of benzylmagnesium chloride (70 mL, 2M in THF). After stirring for 1 h at 0° C., the reaction was quenched with 200 mL of saturated solution of NH4Cl and the product was extracted with 200 mL of 1:1 EtOAc/hexane. The extract was dried over Na2SO4 and concentrated. The residue was distilled under reduced pressure to give 16 g of the title compound.

reactant | 2,2-dimethylpent-4-enal | 11.2 g | CC(C=O)(CC=C)C | C7H12O
reactant | benzylmagnesium chloride | 2M, 70 mL | C(C1=CC=CC=C1)[Mg]Cl
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 3,3-Dimethyl-1-phenylhex-5-en-2-ol | 16 g | CC(C(CC1=CC=CC=C1)O)(CC=C)C | C14H20O
